US07482354B2
1-acetyl-4-hydrazinopiperidine hydrochloride
32 g (0.09 mol) of di-tert-butyl 1-(1-acetylpiperidin-4-yl)hydrazine-1,2-dicarboxylate were dissolved in 300 mL of methanol and 30 mL of HCl 4 M in dioxane were added. The mixture was stirred at room temperature overnight. The solvent was then evaporated and the residue crystallized from ethanol, giving 14 g (77% yield) of the title compound.

reactant | di-tert-butyl 1-(1-acetylpiperidin-4-yl)hydrazine-1,2-dicarboxylate | 0.09 mol, 32 g | C(C)(=O)N1CCC(CC1)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H31N3O5
reactant | HCl | 4 M, 30 mL | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-acetyl-4-hydrazinopiperidine hydrochloride | 14 g, 77% yield | Cl.C(C)(=O)N1CCC(CC1)NN | InChI=1S/C7H15N3O.ClH/c1-6(11)10-4-2-7(9-8)3-5-10;/h7,9H,2-5,8H2,1H3;1H
